US07576074B2
(3S,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine (115 mg, 0.655 mmol) and 4-[(4-bromo-2,3-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetic acid salt (347 mg, 0.655 mmol) were dissolved in dimethylacetamide (0.8 mL) and potassium carbonate (452 mg, 3.28 mmol) was added. The mixture was stirred at 130° C. for 36 h. The mixture was cooled to room temperature and the mixture was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate and the combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a brown oil which was purified by column chromatography (ethyl acetate-ethanol 1:1). The purified material was dissolved in ethanol and treated with 4M solution of HCl in 1,4-dioxane (0.25 mL) and the mixture was concentrated in vacuo. The residue was dissolved in water and lyophilized to afford N-(4-bromo-2,3-dichlorophenyl)-7-{[(3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride as a brown solid (131 mg, 0.222 mmol, 34% yield). 1H NMR (400 MHz, d6-DMSO): 11.9-11.5 (m, 2H), 8.79 (s, 1H), 8.34 (s, 1H), 7.96 (d, 1H), 7.54 (d, 1H), 7.41 (s, 1H), 4.47-4.25 (m, 4H), 4.03 (s, 3H) 3.96-3.00 (m, 6H), 2.18-1.88 (m, 3H), 1.73-1.57 (m, 1H); MS (EI) for C23H23N4O3Cl2Br: 553 (MH+).

reactant | (3S,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine | 0.655 mmol, 115 mg | ClC[C@@H]1CN2[C@H](CO1)CCC2 | C8H14ClNO
reactant | 4-[(4-bromo-2,3-dichlorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetic acid salt | 0.655 mmol, 347 mg | FC(C(=O)O)(F)F.BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O)Cl)Cl
reactant | potassium carbonate | 3.28 mmol, 452 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 0.8 mL | CC(=O)N(C)C | C4H9NO
product | N-(4-bromo-2,3-dichlorophenyl)-7-{[(3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride | 0.222 mmol, 131 mg, 34% yield | Cl.BrC1=C(C(=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1CN2[C@H](CO1)CCC2)Cl)Cl | InChI=1S/C23H23BrCl2N4O3.ClH/c1-31-19-7-15-18(8-20(19)33-11-14-9-30-6-2-3-13(30)10-32-14)27-12-28-23(15)29-17-5-4-16(24)21(25)22(17)26;/h4-5,7-8,12-14H,2-3,6,9-11H2,1H3,(H,27,28,29);1H/t13-,14-;/m0./s1
